US07820665B2
To a round-bottomed flask was added 5-bromopyridin-3-amine (0.80 g, 4.6 mmol, Matrix Scientific, Columbia, S.C.), ethanol (15 mL) and 4-fluorobenzenesulfonyl chloride (2.2 g, 12 mmol, Fluka (Sigma-Aldrich) Buchs, Switzerland). The mixture was allowed to stir at ambient temperature overnight. The mixture was diluted with CH2Cl2 and sat. NaHCO3 and then the solution was extracted with CH2Cl2 (3×25 mL). The combined extracts were dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (10-30% EtOAc/CH2Cl2) afforded N-(5-bromopyridin-3-yl)-4-fluorobenzenesulfonamide as an off-white crystalline solid (0.35 g, 23% yield). MS (ESI pos. ion) m/z: 333 (M+1). 1H NMR (400 MHz, MeOH-d4) δ ppm 8.35 (s, 1H), 8.22 (s, 1H), 7.83-7.89 (m, 2H), 7.76-7.81 (m, 1H), 7.25-7.32 (m, 2H).

reactant | 5-bromopyridin-3-amine | 4.6 mmol, 0.80 g | BrC=1C=C(C=NC1)N | C5H5BrN2
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | 4-fluorobenzenesulfonyl chloride | 12 mmol, 2.2 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-(5-bromopyridin-3-yl)-4-fluorobenzenesulfonamide | 0.35 g, 23% yield | BrC=1C=C(C=NC1)NS(=O)(=O)C1=CC=C(C=C1)F | C11H8BrFN2O2S
